US08106070B2
1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(1H-pyrazol-4-yl)phenyl]ethanamine
Trifluoroacetic acid (2 mL) was added to neat tert-butyl 4-(4-{2-[(tert-butoxycarbonyl)amino]-2-[1-(tert-butoxycarbonyl)-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1H-pyrazole-1-carboxylate. After stirring at ambient temperature for 1 h, the reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. (M+H) found: 338.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-{2-[(tert-butoxycarbonyl)amino]-2-[1-(tert-butoxycarbonyl)-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}phenyl)-1H-pyrazole-1-carboxylate | C(C)(C)(C)OC(=O)NC(CC1=CC=C(C=C1)C=1C=NN(C1)C(=O)OC(C)(C)C)C=1N(C=C(N1)CC(CC)(C)C)C(=O)OC(C)(C)C | C35H51N5O6
product | 1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(1H-pyrazol-4-yl)phenyl]ethanamine | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C=1C=NNC1)N)(CC)C | C20H27N5
